US05753664
1-[4-(4-Chlorobenzoyl)benzyl]-pyrrolo[2,3-d]-pyridazine-4(5H),7(6H)-dione
In ethanol (70 ml) was dissolved 1-[4-(4-chlorobenzoyl)benzyl]-2,3-diethoxycarbonylpyrrole (3.31 g) followed by addition of anhydrous hydrazine (10.54 g) and the mixture was refluxed for 3 hours. The solvent was then distilled off under reduced pressure and the resulting crystals were suspended in water (150 ml) and, after addition of concentrated hydrochloric acid (30 ml), stirred at 85° C. for 30 minutes. The crystals were rinsed with water, methanol and ether serially and dried under reduced pressure to provide 1.46 g (yield 81%) of the title compound.

reactant | 1-[4-(4-chlorobenzoyl)benzyl]-2,3-diethoxycarbonylpyrrole | 3.31 g | ClC1=CC=C(C(=O)C2=CC=C(CN3C(=C(C=C3)C(=O)OCC)C(=O)OCC)C=C2)C=C1 | C24H22ClNO5
reactant | hydrazine | 10.54 g | NN | H4N2
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 1-[4-(4-Chlorobenzoyl)benzyl]-pyrrolo[2,3-d]-pyridazine-4(5H),7(6H)-dione | 1.46 g, yield 81% | ClC1=CC=C(C(=O)C2=CC=C(CN3C=CC4=C3C(NNC4=O)=O)C=C2)C=C1 | C20H14ClN3O3
